US07666878B2
102c) [1-(4-Fluoro-3-methoxy-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid
1M Lithium hydroxide (119 μl) is added dropwise to a cooled (0° C.) solution of [1-(4-fluoro-3-methoxy-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester (0.044 g, 0.119 mmol) in THF/water (4 ml of a 1:1 mixture). After stirring at room temperature for 4 hours, the reaction mixture is diluted with DCM. The resulting mixture is passed through a phase separation cartridge and the aqueous portion is acidified to pH 1-3 with 1M HCl. This portion is extracted with DCM and the organic extracts are combined and concentrated in vacuo to yield the titled compound as a pale yellow solid. (MH+ 379)

reactant | Lithium hydroxide | 1M, 119 μl | [OH-].[Li+]
reactant | [1-(4-fluoro-3-methoxy-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester | 0.119 mmol, 0.044 g | COC(CC1=C(N(C2=NC=CC=C21)S(=O)(=O)C2=CC(=C(C=C2)F)OC)C)=O | C18H17FN2O5S
solvent | THF water | C1CCOC1.O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | [1-(4-Fluoro-3-methoxy-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid | FC1=C(C=C(C=C1)S(=O)(=O)N1C(=C(C=2C1=NC=CC2)CC(=O)O)C)OC | C17H15FN2O5S
